US07683091B2
N-{4-[(5-{[(4-tert-Butylphenyl)sulfonyl]amino}-1H-indol-1-yl)methyl]benzoyl}-L-phenylalanine
The title compound was prepared from ethyl N-{4-[(5-amino-1H-indol-1-yl)methyl]benzoyl}phenylalaninate and 4-tert-butylphenyl sulfonyl chloride following the procedure of Example 10: MS (ESI) m/z 610; MS (ESI) m/z 608.

reactant | ethyl N-{4-[(5-amino-1H-indol-1-yl)methyl]benzoyl}phenylalaninate | NC=1C=C2C=CN(C2=CC1)CC1=CC=C(C(=O)N[C@@H](CC2=CC=CC=C2)C(=O)OCC)C=C1 | C27H27N3O3
reactant | 4-tert-butylphenyl sulfonyl chloride | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)Cl | C10H13ClO2S
product | N-{4-[(5-{[(4-tert-Butylphenyl)sulfonyl]amino}-1H-indol-1-yl)methyl]benzoyl}-L-phenylalanine | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC=1C=C2C=CN(C2=CC1)CC1=CC=C(C(=O)N[C@@H](CC2=CC=CC=C2)C(=O)O)C=C1 | C35H35N3O5S
